US05459138
Stage E: 5-Methyl-3-nitropyridine-2-sulfenamide
A solution of 12 g of 2-mercapto-5-methyl-3- nitropyridine and 28.6 g of triethylamine in 180 cm3 of dichloromethane is treated dropwise with 12 g of hydroxylamine-O-sulfonic acid dissolved in the minimum amount of water. At the end of the reaction, the solvent is removed under partial vacuum and the residue is taken up in 20 cm3 of water. The precipitate obtained is collected on a filter, washed with water and dried. It is recrystallized from a dichloromethane/petroleum jelly mixture.

reactant | 2-mercapto-5-methyl-3- nitropyridine | 12 g | SC1=NC=C(C=C1[N+](=O)[O-])C | C6H6N2O2S
reactant | triethylamine | 28.6 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine-O-sulfonic acid | 12 g | NOS(=O)(=O)O | H3NO4S
solvent | dichloromethane | 180 cm3 | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Methyl-3-nitropyridine-2-sulfenamide | CC=1C=C(C(=NC1)SN)[N+](=O)[O-] | C6H7N3O2S
